US05462941
200 mg of 1-chloro-4-(4-methyl-2-thienyl)phthalazine and 100 mg of D-α-phenylethylamine were dissolved in 2 ml of N-methylpyrrolidone, and the solution was stirred at 140° C. for 8 hours. After the solution was subjected to after-treatment, it was purified by column chromatography, thereby obtaining 25 mg of (R)-1-(α-phenylethylamino)-4-(4-methyl-2-thienyl)phthalazine.

reactant | 1-chloro-4-(4-methyl-2-thienyl)phthalazine | 200 mg | ClC1=NN=C(C2=CC=CC=C12)C=1SC=C(C1)C | C13H9ClN2S
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | (R)-1-(α-phenylethylamino)-4-(4-methyl-2-thienyl)phthalazine | 25 mg | C1(=CC=CC=C1)[C@@H](C)NC1=NN=C(C2=CC=CC=C12)C=1SC=C(C1)C | C21H19N3S
